US08202885B2
0.196 mL of a Red-Al solution (65% in toluene) was added dropwise at 0° C. to a solution of 70 mg of rac-(1R*,2R*,4R*)-N-[3-(1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide in toluene (0.8 mL). The reaction mixture was stirred for 30 min at 0° C. then the temperature was allowed to increase to rt for 3.5 h. The mixture was carefully poured onto a mixture of 1M-NaOH (6.1 mL) and ice. The mixture was stirred for 5 min until rt and extracted with toluene. The aq. phase was extracted with toluene. The combined toluene phase was washed with 1M-NaOH and brine, dried over anh. Na2SO4 and concentrated in vacuo to yield 54 mg of rac-(1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-ol as a colorless solid.

reactant | Red-Al | 0.196 mL | COCCO[AlH2-]OCCOC.[Na+]
reactant | rac-(1R*,2R*,4R*)-N-[3-(1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide | 70 mg | N1C(=NC2=C1C=CC=C2)CCCN(C(CC2(C1C=C(C(C2)CC1)C=1SC=CC1)O)=O)C | C25H29N3O2S
reactant | NaOH | 6.1 mL | [OH-].[Na+]
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
product | rac-(1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-ol | 54 mg | N1C(=NC2=C1C=CC=C2)CCCN(CCC2(C1C=C(C(C2)CC1)C=1SC=CC1)O)C | C25H31N3OS
